US08530480B2
A mixture of 3,5-dibromobenzonitrile (0.58 g, 2.2 mmol), phenylboronic acid (0.24 g, 2.0 mmol), Pd(PPh3)4 (0.23 g, 0.1 mmol), K2CO3 (3 mL 2 M aqueous solution) and DME (3 mL) was degassed and heated to 95° C. for 12 hr under argon. The reaction mixture was diluted with EtOAc and washed with water. The aqueous layer was extracted with ethyl acetate (2×). The combined organics were dried (MgSO4) and concentrated to give the crude product which was purified with chromatography on silica gel (EtOAc/hexanes) to afford 5-bromobiphenyl-3-carbonitrile.

reactant | 3,5-dibromobenzonitrile | 2.2 mmol, 0.58 g | BrC=1C=C(C#N)C=C(C1)Br | C7H3Br2N
reactant | phenylboronic acid | 2.0 mmol, 0.24 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K2CO3 | 2 M, 3 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.1 mmol, 0.23 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | 3 mL | COCCOC | C4H10O2
product | 5-bromobiphenyl-3-carbonitrile | BrC=1C=C(C=C(C1)C1=CC=CC=C1)C#N | C13H8BrN
